US06310095B1
To a −78° C. solution in THF (6 mL) of N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxylic acid-N-methoxy-N-methyl amide (550 mg, 2.0 mmol) was added lithium aluminum hydride (1.0 M in THF, 3.0 mL, 3.0 mmol) and the reaction mixture was stirred for 2.5 hours. The reaction was quenched with 10% aqueous citric acid (30 mL) and warmed to ambient temperature. The mixture was warmed to ambient temperature and extracted with ether (3×). The combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated in vacuo to give N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxaldehyde (440 mg) which was used without further purification.

reactant | N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxylic acid-N-methoxy-N-methyl amide | 2.0 mmol, 550 mg | CON(C(=O)[C@H]1N(CSC1)C(=O)OC(C)(C)C)C | C11H20N2O4S
reactant | lithium aluminum hydride | 3.0 mmol, 1.0 M, 3.0 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-tert-butoxycarbonyl-(R)-(−)thiazolidine-4-carboxaldehyde | 440 mg | C(C)(C)(C)OC(=O)N1CSC[C@H]1C=O | C9H15NO3S
